US05726191
In analogy to Example 1, by metallating 6-bromo-7-pentoxy-1,1,4,4-tetramethyl-1,2,3,4-tetrahydro-naphthalene with tert.butyl-lithium and reacting with carbon dioxide gas there was prepared 3-pentoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid (m.p. 67°-68° C., from hexane). Reaction of this acid with benzyl 6-hydroxy-nicotinate gave benzyl 6-(3-pentoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-carbonyloxy)-nicotinate as a colorless oil. Subsequent hydrogenation yielded the desired end product 6-(3-pentoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl-carbonyloxy)-nicotinic acid in white crystals, m.p. 132°-133° C. (from diethyl ether/hexane).

reactant | 6-bromo-7-pentoxy-1,1,4,4-tetramethyl-1,2,3,4-tetrahydro-naphthalene | BrC=1C=C2C(CCC(C2=CC1OCCCCC)(C)C)(C)C | C19H29BrO
reactant | tert.butyl-lithium | C(C)(C)(C)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 3-pentoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid | C(CCCC)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)O | C20H30O3
reactant | benzyl 6-hydroxy-nicotinate | OC1=NC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C13H11NO3
product | benzyl 6-(3-pentoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-carbonyloxy)-nicotinate | C(CCCC)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)OC1=NC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C33H39NO5
